US07723333B2
Phenyl β-alaninate Hydrochloride
The title compound was prepared from phenyl N-(tert-butoxycarbonyl)-β-alaninate in a similar manner as described for 2,6-dimethylphenyl 4-aminobutanoate hydrochloride. 1H NMR (400 MHz, CDCl3): δ 7.36-7.40 (t, 2H), 7.22-7.25 (t, 1H), 7.12-7.14 (d, 2H), 4.82 (s, 3H), 3.27-3.30 (m, 2H), 2.99-3.03 (t, 2H).

reactant | phenyl N-(tert-butoxycarbonyl)-β-alaninate | C(C)(C)(C)OC(=O)NCCC(=O)OC1=CC=CC=C1 | C14H19NO4
reactant | 2,6-dimethylphenyl 4-aminobutanoate hydrochloride | Cl.NCCCC(=O)OC1=C(C=CC=C1C)C
product | Phenyl β-alaninate Hydrochloride | Cl.NCCC(=O)OC1=CC=CC=C1 | InChI=1S/C9H11NO2.ClH/c10-7-6-9(11)12-8-4-2-1-3-5-8;/h1-5H,6-7,10H2;1H
